US06451821B1
Methyl (2S)-6-{[benzyloxy)carbonyl]amino}-2-{[(tert-butyloxy)carbonyl]amino}hexanoate: 4.8 g of di-tert-butyl dicarbonate are added, under an inert atmosphere, to a stirred solution of 6.6 g of Nε-CBZ-L-lysine methyl ester hydrochloride in 66 cm3 of methanol and 66 cm3 of tetrahydrofuran, cooled to a temperature in the region of 0° C., followed by addition of 5.7 cm3 of triethylamine and 10 cm3 of methanol. After stirring the mixture at a temperature in the region of 5° C. for 2 hours and then at about 20° C. for 2 hours, the reaction medium is concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained is taken up in dichloromethane and the solution is washed with 100 cm3 of water, dried over magnesium sulphate, filtered and concentrated under the same conditions as above. 7 g of methyl (2S)-6-{[(benzyloxy)carbonyl]amino}-2-{[(tert-butyloxy)-carbonyl]amino}hexanoate are obtained in the form of a cream-colored oil. (Rf=0.90 in a 90/10 by volume mixture of dichloromethane/methanol, on a Merck 60F254R silica plate).

reactant | 2-{[(tert-butyloxy)carbonyl]amino}hexanoate | C(C)(C)(C)OC(=O)NC(C(=O)[O-])CCCC
reactant | di-tert-butyl dicarbonate | 4.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Nε-CBZ-L-lysine methyl ester hydrochloride | 6.6 g | Cl.COC([C@@H](N)CCCCNC(=O)OCC1=CC=CC=C1)=O
reactant | triethylamine | 5.7 cm3 | C(C)N(CC)CC | C6H15N
solvent | methanol | 66 cm3 | CO | CH4O
solvent | tetrahydrofuran | 66 cm3 | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 10 cm3 | CO | CH4O
product | methyl (2S)-6-{[(benzyloxy)carbonyl]amino}-2-{[(tert-butyloxy)-carbonyl]amino}hexanoate | 7 g | C(C1=CC=CC=C1)OC(=O)NCCCC[C@@H](C(=O)OC)NC(=O)OC(C)(C)C | C20H30N2O6
